US08222419B2
Production of Methyl 2-(4-Bromophenoxymethyl)benzoate
Potassium carbonate (152 g, 1.1 mol) and 4-bromophenol (95.2 g, 550 mmol) were added to a DMF (500 mL) solution of methyl 2-bromomethylbenzoate (115 g, 500 mmol), and the mixture was stirred overnight at room temperature. Water was added to the reaction mixture, and the product was extracted with ethyl acetate. An organic layer was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate, and thereafter the solvents were distilled off under a reduced pressure. The residue was purified by column chromatography (hexane-toluene=1:1), to give 139 g (86%) of the captioned compound in the form of a colorless oily product.

reactant | Potassium carbonate | 1.1 mol, 152 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromophenol | 550 mmol, 95.2 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
reactant | methyl 2-bromomethylbenzoate | 500 mmol, 115 g | BrCC1=C(C(=O)OC)C=CC=C1 | C9H9BrO2
solvent | Water | O | H2O
product | Methyl 2-(4-Bromophenoxymethyl)benzoate | 139 g, 86% | BrC1=CC=C(OCC2=C(C(=O)OC)C=CC=C2)C=C1 | C15H13BrO3
